US04640915
To a solution of 4-nitrobenzyl (2R, 5R, 6R)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]heptane-2-carboxylate (450 mg) and 4-(N,N-dimethylamino)pyridine (14.6 mg) in methylene chloride (22.5 ml) was added a solution of N,N-diisopropyl-N-ethylamine (0.249 ml) in methylene chloride (2.241 ml) at -30° C. To the mixture was added further a solution of trifluoromethanesulfonic anhydride (0.211 ml) in methylene chloride (1.899 ml) at -30° C. After stirring for 30 minutes at the same temperature, a solution of 4-(N,N-dimethylamino)pyridine (2.9 mg) and N,N-diisopropyl-N-ethylamine (0.0498 ml) in methylene chloride (0.448 ml) and then a solution of trifluoromethanesulfonic anhydride (0.0422 ml) in methylene chloride (0.38 ml) were added thereto at -30° C. After stirring for 30 minutes at the same temperature a solution of N,N-diisopropyl-N-ethylamine (0.833 ml) in methylene chloride (7.497 ml) and a solution of pyridine-4-thiol (159.5 mg) in N,N-dimethylformamide (5.63 ml) were added successively thereto at -30° C. The resultant solution was stirred for 30 minutes at the same temperature and for additional 30 minutes at 0° C. The solvent was distilled off and the residue was dissolved in ethyl acetate, washed twice with water and a saturated aqueous sodium chloride. After drying over magnesium sulfate, the solution was filtered and evaporated. The residue was chromatographed on deactivated silica gel with 10% water (13.5 g), eluting with a mixture of benzene and acetone (100:1 to 6:1) to give 4-nitrobenzyl (5R, 6R)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate (379 mg) as a pale yellow solid.

reactant | 4-nitrobenzyl (2R, 5R, 6R)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]heptane-2-carboxylate | 450 mg | O=C1[C@@H](N2C([C@H]([C@H]2C1)C(C)(C)OC)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O7
reactant | N,N-diisopropyl-N-ethylamine | 0.249 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.211 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropyl-N-ethylamine | 0.0498 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.0422 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropyl-N-ethylamine | 0.833 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyridine-4-thiol | 159.5 mg | N1=CC=C(C=C1)S | C5H5NS
catalyst | 4-(N,N-dimethylamino)pyridine | 14.6 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 22.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.241 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.899 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 2.9 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 0.448 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.38 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7.497 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 5.63 ml | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl (5R, 6R)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate | 379 mg | COC(C)(C)[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC1=CC=NC=C1 | C23H23N3O6S
